US08957080B2
A mixture of tert-butyl 3-[4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidine-1-carboxylate (1 g, 2.25 mmol, 1.00 equiv), (4-phenoxyphenyl)boronic acid (530 mg, 2.48 mmol, 1.10 equiv), sodium carbonate (480 mg, 4.53 mmol, 2.01 equiv) and tetrakis(triphenylphosphine)palladium (78 mg, 0.07 mmol, 0.03 equiv) in 1,4-dioxane (60 mL) and water (15 mL) was stirred under nitrogen at 90° C. for 24 h. The reaction mixture was cooled to room temperature and then concentrated under vacuum. The residue was dissolved in 500 mL of dichloromethane. The resulting solution was washed with 200 mL of water, dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was purified on a silica gel column eluted with dichloromethane/methanol (100/1) to give 700 mg (64%) of tert-butyl 3-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidine-1-carboxylate as a yellow solid.

reactant | tert-butyl 3-[4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidine-1-carboxylate | 2.25 mmol, 1 g, 1.00 equiv | NC1=C2C(=NC=N1)N(N=C2I)C2CN(CCC2)C(=O)OC(C)(C)C | C15H21IN6O2
reactant | (4-phenoxyphenyl)boronic acid | 2.48 mmol, 530 mg, 1.10 equiv | O(C1=CC=CC=C1)C1=CC=C(C=C1)B(O)O | C12H11BO3
reactant | sodium carbonate | 4.53 mmol, 480 mg, 2.01 equiv | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,4-dioxane | 60 mL | O1CCOCC1 | C4H8O2
solvent | water | 15 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.07 mmol, 78 mg, 0.03 equiv | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 3-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidine-1-carboxylate | 700 mg, 64% | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C2CN(CCC2)C(=O)OC(C)(C)C | C27H30N6O3
